US07220856B2
4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinecarboxylic Acid, 4-nitrophenyl Ester
As described for example 78, 7-chloro-4-aminoqunoline, p-nitrophenyl chloroformate, diisopropylethyl amine, and 7-chloro-4-(1-piperazinyl)-2-quinolinamine are reacted to afford the product. LC-MS: 427 (M++1). 1H NMR (DMSO-d6) δ 3.0–3.2 (m, 4H), 3.6–3.9 (m, 4H), 6.2–6.3 (s, 1H), 6.4–6.6 (s, H), 7.05–7.2 (m, 1H), 7.35–7.4 (m, 1H), 7.4–7.5 (d, 2H), 7.7–7.8 (d, 1H), 8.2–8.35 (d, 2H).

reactant | p-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropylethyl amine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
product | 4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinecarboxylic Acid, 4-nitrophenyl Ester | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])Cl | C20H18ClN5O4
